US06559307B2
Preparation of 4-(3-Triflouromethylphenoxy)-2-(4-Triflouromethylphenyl)-Pyrimidine
Analogously are prepared 3-methyl-4-(3-trifluoromethylphenoxy)-2-(4-trifluoromethylphenyl)-pyrimidine, 5-4-(3-trifluoromethylphenoxy)-2-(4-trifluoromethylphenyl)-pyrimidine, 4-phenoxy-2-(4-trifluoromethylphenyl)pyrimidine

reactant | 3-methyl-4-(3-trifluoromethylphenoxy)-2-(4-trifluoromethylphenyl)-pyrimidine | CN1C(N=CC=C1OC1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C19H14F6N2O
reactant | 4-phenoxy-2-(4-trifluoromethylphenyl)pyrimidine | O(C1=CC=CC=C1)C1=NC(=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C17H11F3N2O
product | 4-(3-Triflouromethylphenoxy)-2-(4-Triflouromethylphenyl)-Pyrimidine | FC(C=1C=C(OC2=NC(=NC=C2)C2=CC=C(C=C2)C(F)(F)F)C=CC1)(F)F | C18H10F6N2O
